US05688808
This compound was prepared in a manner similar to that of methyl-(5'-fluoro-2'-methoxy-4-nitro-2-biphenyl)carboxylate (EXAMPLE 107) from methyl 2-bromo-5-nitrobenzoate (1.25 g, 4.8 mmol, 1.0 equivuiv), tetrakis(triphenylphosphine)palladium (Aldrich: 0.16 g, 0.14 mmol, 2.9 mol %), and 5-chloro-2-methoxyphenylboronic acid (1.30 g, 6.9 mmol, 1.5 equivuiv) to afford 0.85 g (55%) of methyl-5'-chloro-2'-methoxy-4-nitro-2-biphenylcarboxylate as a yellow-orange solid. Data for methyl-5'-chloro-2'-methoxy-4-nitro-2-biphenylcarboxylate: 1H NMR (400 MHz, CDCl3): 8.73 (d, J=2.4, 1H); 8.38 (dd, J=8.5, 2.5, 1H); 7.49 (d, J=8.5, 1H); 7.36 (dd, J=8.7, 2.5, 1H); 7.23 (d, J=2.5, 1H); 6.85 (d, J=8.7, 1H); 3.76 (s, 3H); 3.70 (s, 3H).

reactant | methyl 2-bromo-5-nitrobenzoate | 4.8 mmol, 1.25 g | BrC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6BrNO4
reactant | 5-chloro-2-methoxyphenylboronic acid | 6.9 mmol, 1.30 g | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
catalyst | tetrakis(triphenylphosphine)palladium | 0.14 mmol, 0.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl-5'-chloro-2'-methoxy-4-nitro-2-biphenylcarboxylate | 0.85 g, 55% | COC(=O)C=1C(=CC=C(C1)[N+](=O)[O-])C1=C(C=CC(=C1)Cl)OC | C15H12ClNO5
